US07423038B2
5-amino-2-chloro-4-(methylamino)-pyrimidine
A mixture of 2-chloro-4-(methylamino)-5-nitropyrimidine (3.76 g, 20 mmol, synthesized from the above procedure), tin(II) chloride dihydrate (18.0 g, 80 mmol) in ethanol (200 mL) is heated at 80° C. After heating for 2 hours, the reaction mixture is cooled to room temperature and concentrated. Ethyl acetate and celite is added to the residue and the mixture is basified with saturated sodium carbonate solution to a pH of 9-10. The mixture is filtered through a pad of celite and washed with ethyl acetate. The combined organic extracts are washed with brine, dried over Na2SO4, filtered and concentrated. Further purification by column chromatography (silica gel, eluting with ethyl acetate) affords the title compound (1.72 g, 54%).

reactant | 2-chloro-4-(methylamino)-5-nitropyrimidine | ClC1=NC=C(C(=N1)NC)[N+](=O)[O-] | C5H5ClN4O2
reactant | tin(II) chloride dihydrate | 80 mmol, 18.0 g | O.O.[Sn](Cl)Cl
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 5-amino-2-chloro-4-(methylamino)-pyrimidine | 1.72 g, 54% | NC=1C(=NC(=NC1)Cl)NC | C5H7ClN4
